US06218547B1
To a solution of 3-nitrobenzylbromide (3 g, 13.9 mmol) in anhydrous THF (30 ml) was added a solution of pyrrolidine (2.3 ml, 27.8 mmol) in anhydrous THF (10 ml) dropwise with stirring. Following the addition the mixture was stirred at ambient temperature overnight. The reaction mixture was filtered, The filter cake was washed with a small volume of anhydrous THF and the filtrate was concentrated to leave the intermediate 1-(3-nitrobenzyl)pyrrolidine as an oil. This oil was dissolved in methanol (50 ml) and three equivalents of both ammonium chloride and sodium sulfide nonahydrate were added. The mixture was heated to reflux for 2 hours. After cooling the mixture was filtered. The filtercake was washed with methanol and the filtrate was concentrated under reduced pressure. The residue was dissolved in ethyl acetate and dried over sodium sulfate. Filtration and evaporation of solvent left 2i quantitatively as yellow crystals.

reactant | 3-nitrobenzylbromide | 13.9 mmol, 3 g | [N+](=O)([O-])C=1C=C(CBr)C=CC1 | C7H6BrNO2
reactant | pyrrolidine | 27.8 mmol, 2.3 ml | N1CCCC1 | C4H9N
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-(3-nitrobenzyl)pyrrolidine | [N+](=O)([O-])C=1C=C(CN2CCCC2)C=CC1 | C11H14N2O2
